data/mechanisms/records/IMS8-EQ8.68a.json
{"mechanism_id": "IMS8-EQ8.68a", "species": [{"species_id": "n_ionized_1_methyl_octahydroindol_5_ol", "mapped_smiles": "[CH3:2][N+:1]1[CH2:3][CH2:4][CH:5]2[CH2:11][CH:9]([OH:10])[CH2:8][CH2:7][CH:6]12", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methylpyrrolinium_distonic_ion_mz83", "mapped_smiles": "[CH3:2][N+:1]1=[CH:6][CH:5][CH2:4][CH2:3]1", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "cyclobutanol_neutral", "mapped_smiles": "[CH2:7]1[CH2:11][CH:9]([OH:10])[CH2:8]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["n_ionized_1_methyl_octahydroindol_5_ol"]}, {"state_id": "state_products", "species_ids": ["methylpyrrolinium_distonic_ion_mz83", "cyclobutanol_neutral"]}], "steps": [{"step_id": "step_double_ring_cleavage_to_mz83", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [7, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 11]}, "target": {"type": "bond", "atom_maps": [7, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 11]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_double_ring_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_double_ring_cleavage_to_mz83", "support_type": "textbook_proposed", "locator": {"page": 189, "equation": "8.68", "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.8, "curator_note": "Book draws 4 arc(s); moves <1,2,3,4> are drawn, move <5> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = the fishhook printed immediately after 'CH3N+.', carrying the nitrogen odd electron into the N(1)-C(6) bond; drawn arc 2 = the large arc that loops left round C(6), tail on the C(6)-C(7) ring bond and fishhook head on that same N(1)-C(6) bond, so N=C(6) rises to a double bond; drawn arcs 3 and 4 are the two fishhooks inside the carbocycle whose heads converge on the same point (the geometric centre of the hexagon), one with its tail on C(6)-C(7) and one with its tail on C(5)-C(11) -- they build the NEW C(7)-C(11) sigma bond, which is why the book prints the neutral as a closed four-membered ring and not as an open diradical. The undrawn move 5 puts the second electron of the cleaved C(5)-C(11) bond on C(5); the book simply prints the radical dot there in the product. NOTE ON THE ARC-3/ARC-4 TARGET: in a regular hexagon the midpoints of all three long diagonals coincide, so the two arrowheads alone cannot distinguish C(7)...C(11) from C(6)...C(9) or C(5)...C(8); the drawn PRODUCT (a cyclobutane ring bearing OH and the two wavy substituents) fixes the new bond as C(7)-C(11)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 155.1299, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_83", "species_id": "methylpyrrolinium_distonic_ion_mz83", "step_id": "step_double_ring_cleavage_to_mz83", "observed_mz": 83.0724, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
